US08957089B2
2-({1-[1-(4-Chlorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-6-yl}oxy)ethanamine was prepared analogously to 2-({1-[1-(4-fluorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethanamine using 1-[1-(4-chlorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-6-ol in place of 1-[1-(4-fluorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-ol (cf. example 65).

reactant | 2-({1-[1-(4-fluorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-7-yl}oxy)ethanamine | FC1=CC=C(C=C1)C1(CCC1)C1=NCCC2=CC=C(C=C12)OCCN | C21H23FN2O
reactant | 1-[1-(4-chlorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-6-ol | ClC1=CC=C(C=C1)C1(CCC1)C1=NCCC2=CC(=CC=C12)O | C19H18ClNO
product | 2-({1-[1-(4-Chlorophenyl)cyclobutyl]-3,4-dihydroisoquinolin-6-yl}oxy)ethanamine | ClC1=CC=C(C=C1)C1(CCC1)C1=NCCC2=CC(=CC=C12)OCCN | C21H23ClN2O
